US03996209
To a 2-liter, 4-necked flask equipped with a stirrer, a reflux condenser and an ammonia tube, there was added 600 ml. of ethanol and 37.9 g. of hexamethylenetetramine with stirring. Ammonia was bubbled through the resultant reaction medium with stirring until reflux temperature was reached. Then there was carefully added to the refluxing solution 40.0 g. of 2-chloroacetamido-5-nitro benzophenone. Ammonia is steadily bubbled into the reaction mixture while continuing to reflux for three hours. The resultant solution was cooled, evaporated to dryness at 50° C. The residue was dissolved in 300 ml. of toluene. 0.3 G. of paratoluene sulfonic acid was added to the resultant solution. The solution was heated to reflux. The refluxing was continued for 1 hour. The reaction medium was then permitted to cool to room temperature. The product which separated was filtered off, washed with water and dried. This material was taken up in 435 ml. of methylene chloride. It was then filtered through Hyflo. Upon the addition of 90 ml. of 3N nitric acid to the filtrate, crystals appeared. They were filtered off, washed with methylenechloride and dried for 15 minutes. The crystals were added to 1 liter of water with stirring. Ammonium hydroxide was then carefully added to the resultant medium until a pH of about 8 was reached. After stirring the resultant medium for 1/2 hours, the crystalline precipitate which formed were filtered off, washed with cold water and dried at 80° for 8 hours yielding 1,3-dihydro-7-nitro-5-phenyl-2H-1,4-benzodiazepin-2-one of melting point 217°-219° .

reactant | hexamethylenetetramine | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 2-chloroacetamido-5-nitro benzophenone | ClCC(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-] | C15H11ClN2O4
solvent | ethanol | C(C)O | C2H6O
product | 1,3-dihydro-7-nitro-5-phenyl-2H-1,4-benzodiazepin-2-one | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1 | C15H11N3O3
